US08247408B2
Acetato(2′-di-t-butylphosphino-1,1′-biphenyl-2-yl)palladium(II) (45 mg, 0.098 mmol) was added to pressure tube charged with 2-amino-8-ethyl-4-methyl-6-(1,3-thiazol-2-yl)pyrido[2,3-d]pyrimidin-7(8H)-one (141 mg, 0.490 mmol), tert-butyl-4-(4-iodophenyl)tetrahydro-1(2H)pyrazinecarboxylate (209 mg, 0.539 mmol), and sodium tert-pentoxide (135 mg, 1.23 mmol) in dry toluene (1.5 mL). The pressure was capped under nitrogen and heated to 70° C.). After 60 hours, the reaction was cooled to room temperature and filtered through a pad of Celite. The filtrate was purified on silica gel (1:1 hexanes:ethyl acetate) to provide the product, tert-butyl 4-(4-(8-ethyl-4-methyl-7-oxo-6-(thiazol-2-yl)-7,8-dihydropyrido[2,3-d]pyrimidin-2-ylamino)phenyl)piperazine-1-carboxylate (99 mg, 34% yield).

reactant | 2-amino-8-ethyl-4-methyl-6-(1,3-thiazol-2-yl)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.490 mmol, 141 mg | NC=1N=C(C2=C(N1)N(C(C(=C2)C=2SC=CN2)=O)CC)C | C13H13N5OS
reactant | tert-butyl-4-(4-iodophenyl)tetrahydro-1(2H)pyrazinecarboxylate | 0.539 mmol, 209 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)I | C15H21IN2O2
reactant | sodium tert-pentoxide | 1.23 mmol, 135 mg | CCC(C)(C)[O-].[Na+]
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Acetato(2′-di-t-butylphosphino-1,1′-biphenyl-2-yl)palladium(II) | 0.098 mmol, 45 mg | CC(=O)O.CC(C)(C)P(C1=CC=CC=C1C2=CC=CC=[C-]2)C(C)(C)C.[Pd]
product | tert-butyl 4-(4-(8-ethyl-4-methyl-7-oxo-6-(thiazol-2-yl)-7,8-dihydropyrido[2,3-d]pyrimidin-2-ylamino)phenyl)piperazine-1-carboxylate | 99 mg, 34% yield | C(C)N1C(C(=CC2=C1N=C(N=C2C)NC2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)C=2SC=CN2)=O | C28H33N7O3S
